*D FLIP FLOP MEASUREMENTS
.include TSMC_180nm.txt
.param SUPPLY=1.8
.param LAMBDA=0.09u

vdd vdd gnd DC 1.8

.subckt nmos d g s b W='N'
.param width_N={W}
M1 d g s b CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N}
+ AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends nmos

.subckt pmos d g s b W='P'
.param width_P={W}
M1 d g s b CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
+ AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
.ends pmos

.subckt dff out d clk vdd gnd
X1 m13 d vdd vdd pmos W='20*LAMBDA'
* X2 m13 b vdd vdd pmos W='20*LAMBDA'
X3 m34 clk m13 m13 pmos W='20*LAMBDA'
X4 m34 d gnd gnd nmos W='10*LAMBDA'
* X5 m45 b gnd gnd nmos W='10*LAMBDA'

X6 m67 m34 vdd vdd pmos W='20*LAMBDA'
X7 m78 clk m67 m67 pmos W='20*LAMBDA'
X8 m78 m34 gnd gnd nmos W='10*LAMBDA'

X9 m910 m78 vdd vdd pmos W='20*LAMBDA'
X10 m910 clk m1011 m1011 nmos W='10*LAMBDA'
X11 m1011 m78 gnd gnd nmos W='10*LAMBDA'

X12 out m910 vdd vdd pmos W='20*LAMBDA'
X13 out clk m1314 m1314 nmos W='10*LAMBDA'
X14 m1314 m910 gnd gnd nmos W='10*LAMBDA'
.ends dff

V1 clk gnd pulse(0 1.8 2n 0.1n 0.1n 2n 4n)
V2 a gnd pulse(0 1.8 1.8n 0.1n 0.1n 0.4n 10n)
V3 b gnd pulse(0 1.8 15n 0 0 320n 640n)

Xand out a clk vdd gnd dff

.tran 0.01n 6ns

.control
run
set hcopypscolor = 1
set color0 = white
set color1 = blue
set curplottitle= "Mounika_2024102006_Q3_D FLIPFLOP"

plot v(clk) v(a)+2  v(out)+4


meas tran t_clk_q trig v(clk) val=0.9 rise=1 targ v(out) val=0.9 rise=1

meas tran t_setup trig v(a) val=0.9 rise=1 targ v(clk) val=0.9 rise=1

meas tran t_hold trig v(clk) val=0.9 rise=1 targ v(a) val=0.9 fall=1

print t_clk_q
print t_setup
print t_hold

.endc