*XOR_PTL
.include TSMC_180nm.txt
.param SUPPLY=1.8
.param LAMBDA=0.09u

vdd vdd gnd DC 1.8

.subckt nmos d g s b W='N'
.param width_N={W}
M1 d g s b CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N}
+ AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends nmos

.subckt pmos d g s b W='P'
.param width_P={W}
M1 d g s b CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
+ AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
.ends pmos

.subckt inv out in vdd gnd N='a'
.param width_N={N}
.param width_P={2*width_N}
M1      out       in      gnd     gnd  CMOSN   W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M2      out       in      vdd     vdd  CMOSP   W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
.ends inv


.subckt xor out a b bbar vdd gnd
x1 out b a vdd pmos W='20*LAMBDA'
x2 a bbar out gnd nmos W='10*LAMBDA'
x3 bbar a out gnd nmos W='10*LAMBDA'
x4 out a b vdd pmos W='20*LAMBDA'
.ends xor


V2 a gnd pulse(0 1.8 10n 0 0 160n 320n)
V3 b gnd pulse(0 1.8 15n 0 0 320n 640n)

x4 bbar b vdd gnd inv N='10*LAMBDA'
Xand out a b bbar vdd gnd xor

.tran 0.1n 640ns
.control
run
set hcopypscolor = 1
set color0 = white
set color1 = blue

set curplottitle= "Mounika_2024102006_Q3_XOR_PTL"
plot v(a)+2 v(b)+4 v(out)+6
.endc
